US06486141B2
Step 3 diethyl 6-bromo-2-(1-hydroxy-3-methylbutyl)-8-quinolylphosphonate
To a solution of diethyl 6-bromo-2-formyl-8-quinolylphosphonate (293 mg, 0.78 mmol) in toluene (6 mL) at −10° C. was added a 2M solution of isobutylmagnesium bromide in THF (1.59 mL, 3.12 mmol). The mixture was stirred at −10° C. to −5° C. for 2 h. Aqueous NH4CL was added and the mixture was extracted with EtOAc. The organic extracts were washed with brine, dried (anhyd. MgSO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel to give 179 mg (53%) of the title compound

reactant | diethyl 6-bromo-2-formyl-8-quinolylphosphonate | 0.78 mmol, 293 mg | BrC=1C=C2C=CC(=NC2=C(C1)P(OCC)(OCC)=O)C=O | C14H15BrNO4P
reactant | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
reactant | THF | 3.12 mmol, 1.59 mL | C1CCOC1 | C4H8O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 6-bromo-2-(1-hydroxy-3-methylbutyl)-8-quinolylphosphonate | 179 mg, 53% | BrC=1C=C2C=CC(=NC2=C(C1)P(OCC)(OCC)=O)C(CC(C)C)O | C18H25BrNO4P
